US07632838B2
4-{4-[(4-tert-butylphenyl)sulfonyl]piperidin-1-yl}-3,5-dichloropyridine
Using the procedure from Example 7A, 4-[(4-tert-butylphenyl)sulfonyl]piperidine (100 mg, 0.36 mmol) was reacted with 3,4,5-trichloropyridine (134 mg, 0.72 mmol), DIEA (0.25 ml, 1.44) and 1,4-dioxane (0.3 ml) at 185° C. to afford the title compound (16 mg), a white solid, in 10% yield.

reactant | 4-[(4-tert-butylphenyl)sulfonyl]piperidine | 0.36 mmol, 100 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)C1CCNCC1 | C15H23NO2S
reactant | 3,4,5-trichloropyridine | 0.72 mmol, 134 mg | ClC=1C=NC=C(C1Cl)Cl | C5H2Cl3N
reactant | DIEA | 0.25 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | 1,4-dioxane | 0.3 ml | O1CCOCC1 | C4H8O2
product | 4-{4-[(4-tert-butylphenyl)sulfonyl]piperidin-1-yl}-3,5-dichloropyridine | 16 mg, 10% yield | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)C1CCN(CC1)C1=C(C=NC=C1Cl)Cl | C20H24Cl2N2O2S
